US07678815B2
A solution of 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester (0.24 g, 0.90 mmol) in methanol (1.6 ml) was treated with a 2.55 N solution of KOH in water (1.06 ml). The mixture was stirred at 55° C. for 40 min then cooled to room temperature. The volatiles were evaporated and the residue dissolved in water (2.00 ml) and treated with HCl 1N under vigorous stirring until pH 5 was reached. The mixture was stirred for 1 h, then the solids were filtered, washed with water and dried under high vacuum to yield 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid (0.15 g, 70%) as a light yellow solid, MS (ISP): m/e=234.1 (M−H).

reactant | 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid ethyl ester | 0.90 mmol, 0.24 g | C(C)OC(=O)C=1N=C(SC1NC=1C=NC=CC1)C | C12H13N3O2S
reactant | KOH | [OH-].[K+]
solvent | methanol | 1.6 ml | CO | CH4O
solvent | water | 1.06 ml | O | H2O
product | 2-methyl-5-(pyridin-3-ylamino)-thiazole-4-carboxylic acid | 0.15 g, 70% | CC=1SC(=C(N1)C(=O)O)NC=1C=NC=CC1 | C10H9N3O2S
